* source SIMULERING
R_R19         0 N48604  1000000meg TC=0,0 
C_CM5         0 N48594  10.54p  TC=0,0 
C_CM4         0 N48614  20.3p  TC=0,0 
L_LM6         N48604 N48614  52n  
R_R18         0 N48662  50 TC=0,0 
V_V6         N48570 0 DC 0Vdc AC 1Vac 
C_CM6         N48594 N75730  200p  TC=0,0 
L_LM10         N48614 N62639  24n  
C_C33         0 N64032  18p  TC=0,0 
C_C32         N64022 0  18p  TC=0,0 
L_L15         N64046 N64238  27n  
V_V5         N64168 0 DC 0Vdc AC 1Vac 
C_C28         N64032 N64046  1.8p  TC=0,0 
C_C34         0 N64046  11p  TC=0,0 
C_C31         N64242 N64238  470p  TC=0,0 
R_R15         0 N64242  50 TC=0,0 
R_R14         0 N64178  100000meg TC=0,0 
L_L12         N64178 N64022  47n  
C_C27         N64022 N64032  2.7p  TC=0,0 
R_R16         0 N64032  100000meg TC=0,0 
C_C29         N72799 N64178  470p  TC=0,0 
L_L13         N64022 N64032  68n  
L_L14         N64032 N64046  47n  
L_LM9         N48594 N48604  46n  
C_CM10         0 N48604  22.8p  TC=0,0 
R_R22         N72799 N64168  50 TC=0,0 
R_R25         N75730 N48570  50 TC=0,0 
C_CM11         N48662 N62639  200p  TC=0,0 
V_V8         N76978 0 DC 0Vdc AC 1Vac 
R_R26         N76988 N76978  50 TC=0,0 
C_C44         N77008 0  22p  TC=0,0 
C_C42         N76988 N76994  470p  TC=0,0 
C_C45         0 N77022  22p  TC=0,0 
L_L16         N76994 N77008  47n  
C_C43         N77054 N77050  470p  TC=0,0 
R_R29         0 N77022  100000meg TC=0,0 
L_L17         N77008 N77022  68n  
R_R27         0 N76994  100000meg TC=0,0 
C_C46         0 N77038  15p  TC=0,0 
L_L18         N77022 N77038  47n  
R_R28         0 N77054  50 TC=0,0 
L_L19         N77038 N77050  27n  
C_C40         N77008 N77022  1.5p  TC=0,0 
C_C41         N77022 N77038  1.0p  TC=0,0 
L_LM13         N79517 N79537  27n  
C_CM15         0 N79491  22p  TC=0,0 
V_V9         N79461 0 DC 0Vdc AC 1Vac 
R_R30         N79471 N79461  50 TC=0,0 
C_CM16         0 N79517  22p  TC=0,0 
C_CM12         N79475 N79471  220p  TC=0,0 
R_R32         0 N79543  50 TC=0,0 
C_CM13         N79543 N79537  220p  TC=0,0 
L_LM11         N79475 N79491  47n  
C_CM14         0 N79475  10p  TC=0,0 
L_LM12         N79491 N79517  51n  
R_R31         0 N79491  1000000meg TC=0,0 
